US06300330B1
4-(4-Pyridyl)benzamide (0.35 g, 1.8 mmol) was suspended in ethanol (5 mL). 10% w/w aqueous sodium hydroxide solution was added and the reaction mixture refluxed for two hours then allowed to cool to room temperature. The reaction mixture was adjusted to pH 7 with concentrated sulphuric acid. A white precipitate formed which was isolated by filtration to give 4-(4-pyridyl)benzoic acid (238 mg).

reactant | 4-(4-Pyridyl)benzamide | 1.8 mmol, 0.35 g | N1=CC=C(C=C1)C1=CC=C(C(=O)N)C=C1 | C12H10N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(4-pyridyl)benzoic acid | 238 mg | N1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
